US07713994B2
A solution of 6-azidomethyl-4-benzyloxy-2,2-dimethyl-benzo[1,3]dioxole (2.0 mmol maximum) in ethanol (20 mL) and 6 M aqueous hydrochloric acid (2 mL) is hydrogenated at 50 psi over 5% Pd/C. After 18 hours, the reaction mixture is filtered through a Celite pad and concentrated under reduced pressure to give C-(7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methylamine hydrochloride.

reactant | 6-azidomethyl-4-benzyloxy-2,2-dimethyl-benzo[1,3]dioxole | 2.0 mmol | N(=[N+]=[N-])CC=1C=C(C2=C(OC(O2)(C)C)C1)OCC1=CC=CC=C1 | C17H17N3O3
reactant | hydrochloric acid | 6 M, 2 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | C-(7-benzyloxy-2,2-dimethyl-benzo[1,3]dioxol-5-yl)-methylamine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC(=CC2=C1OC(O2)(C)C)CN | InChI=1S/C17H19NO3.ClH/c1-17(2)20-15-9-13(10-18)8-14(16(15)21-17)19-11-12-6-4-3-5-7-12;/h3-9H,10-11,18H2,1-2H3;1H
